US07399867B2
Add 5-bromo-2-fluoro-1,3-dimethyl-benzene (3.5 g, 17.2 mmol) to dimethylformamide (DMF, 30 mL) at ambient temperature followed by sodium thiomethoxide (1.32 g, 17.9 mmol). Heat at 50° C. for 8 hours and dilute with water (10 mL) and diethyl ether (100 mL). Separate the layers, wash the organics with brine, and dry with magnesium sulfate before concentrating to a residue. Chromatograph the residue on a SiO2 column eluting with diethyl ether (20%) in hexane to give 566 mg (14%) of 5-bromo-1,3-dimethyl-2-methylsulfanyl-benzene.

reactant | 5-bromo-2-fluoro-1,3-dimethyl-benzene | 17.2 mmol, 3.5 g | BrC=1C=C(C(=C(C1)C)F)C | C8H8BrF
reactant | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | sodium thiomethoxide | 17.9 mmol, 1.32 g | C[S-].[Na+]
solvent | water | 10 mL | O | H2O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 5-bromo-1,3-dimethyl-2-methylsulfanyl-benzene | 566 mg, 14% | BrC=1C=C(C(=C(C1)C)SC)C | C9H11BrS
